US06265382B1
Step 5: 2-(Phenylmethoxy)-ethylamine hydrochloride
Ethanolamine hydrochloride (20 g, 0.21 mol) in toluene (100 mL) was treated with sodium metal (pellets washed with hexane) (10.14 g, 0.44 mL). The reaction was refluxed until the sodium metal was no longer present. The mixture was cooled and benzyl chloride (24.17 mL, 0.21 mmol) was added, the reaction was stirred at room temperature overnight. The reaction mixture was filtered and the solid washed with toluene. The filtrate was cooled to 0° C. and HCl gas was bubbled in for 10 minutes. A white precipitate was obtained and filtered. The solid was recrystallized using 70 mL of isopropyl alcohol (10.4 g, 0.056 mol); MS-CI 188 (m+1).

reactant | Ethanolamine hydrochloride | 0.21 mol, 20 g | Cl.C(O)CN
reactant | sodium | 0.44 mL, 10.14 g | [Na] | Na
reactant | benzyl chloride | 0.21 mmol, 24.17 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | isopropyl alcohol | 0.056 mol, 70 mL, 10.4 g | C(C)(C)O | C3H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Phenylmethoxy)-ethylamine hydrochloride | Cl.C1(=CC=CC=C1)COCCN | InChI=1S/C9H13NO.ClH/c10-6-7-11-8-9-4-2-1-3-5-9;/h1-5H,6-8,10H2;1H
